US07323475B2
b) [(7-Benzenesulfinyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid
Prepared in analogy to Example D-1 g) from 7-benzenesulfinyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (Compound D-102 A). MS-(+)-ion: M+1=371.1.

reactant | 7-benzenesulfinyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)S(=O)C1=CC=CC=C1 | C20H19NO4S
reactant | D-102 | C1CC2C(C1)N(C3=CC=CC(=C23)/C=C\4/C(=O)N(C(=S)S4)CC(=O)O)C5=CC=CC(=C5)C=C(C6=CC=CC=C6)C7=CC=CC=C7 | C37H30N2O3S2
product | [(7-Benzenesulfinyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | C1(=CC=CC=C1)S(=O)C1=CC=C2C(=C(N=CC2=C1)C(=O)NCC(=O)O)O | C18H14N2O5S
